US08980877B2
(E)-3-[1′-(4-Fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid methyl ester (360 mg, 0.94 mmol) was hydrolyzed with AcOH (6 ml) and aqueous 20% HCl (6 ml) following the procedure described in Example 31, Step B, giving (E)-3-[1′-(4-fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid (300 mg, hydrochloride salt) as a pale yellow solid.

reactant | (E)-3-[1′-(4-Fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid methyl ester | 0.94 mmol, 360 mg | COC(\C=C\C=1C=C2C(CC3(CN(C3)CC3=CC=C(C=C3)F)OC2=CC1)=O)=O | C22H20FNO4
reactant | HCl | 6 ml | Cl | ClH
solvent | AcOH | 6 ml | CC(=O)O | C2H4O2
product | (E)-3-[1′-(4-fluoro-benzyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid | 300 mg | FC1=CC=C(CN2CC3(C2)OC2=CC=C(C=C2C(C3)=O)/C=C/C(=O)O)C=C1 | C21H18FNO4
